US08729274B2
(3aR*,4S*,9bR*)-2-Benzyl-6-chloro-3a,4-dimethyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindol-1-one (229 mg, 0.674 mmol) was dissolved in THF (2.6 ml). Borane THF (2 M solution) (6.74 mmol, 6.74 ml) was added and the reaction mixture was heated to 70° C. overnight. MeOH and 5 N aq HCl (4 ml) were then added and the resulting solution was heated at 70° C. for a further 2 hours. The organic solvents were removed in vacuo and the reaction mixture was basified using 4 N NaOH. The aqueous mixture was extracted with DCM (×3) and the combined organic extracts were dried over magnesium sulphate, filtered and concentrated in vacuo to afford a residue that was purified by silica column chromatography (eluting with heptane—heptane: 30% ethyl acetate) to give (3aR*,4S*,9bR*)-2-benzyl-6-chloro-3a,4-dimethyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole (52 mg). m/z: 326.3 [M+H]+.

reactant | (3aR*,4S*,9bR*)-2-Benzyl-6-chloro-3a,4-dimethyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindol-1-one | 0.674 mmol, 229 mg | C(C1=CC=CC=C1)N1C[C@@]2([C@H](CC3=C([C@H]2C1=O)C=CC=C3Cl)C)C | C21H22ClNO
reactant | Borane THF | 6.74 mmol, 2 M, 6.74 ml | B.C1CCOC1
reactant | MeOH | CO | CH4O
reactant | HCl | 5 N, 4 ml | Cl | ClH
solvent | THF | 2.6 ml | C1CCOC1 | C4H8O
product | (3aR*,4S*,9bR*)-2-benzyl-6-chloro-3a,4-dimethyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole | 52 mg | C(C1=CC=CC=C1)N1C[C@@]2([C@H](CC3=C([C@H]2C1)C=CC=C3Cl)C)C | C21H24ClN
